US09334269B2
To a solution of 3-((4-chloropyridin-2-yl)amino)-N-methylbenzamide (0.300 g, 1.14 mmol) in Isopropanol (4 mL) was added DIPEA (0.3 mL, 1.71 mmol) and 3-(2-fluoro-4-chlorophenoxy)azetidine (0.230 g, 1.14 mmol) [prepared as described in Example AAA] and the reaction mixture was heated at 80° C. for 7 h. The mixture was concentrated under reduced pressure and extracted with EtOAc (2×20 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 3-((4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)pyridin-2-yl)amino)-N-methylbenzamide (0.10 g, 3%) as a solid. Observed mass (M+1): 427.1

reactant | 3-((4-chloropyridin-2-yl)amino)-N-methylbenzamide | 1.14 mmol, 0.300 g | ClC1=CC(=NC=C1)NC=1C=C(C(=O)NC)C=CC1 | C13H12ClN3O
reactant | DIPEA | 1.71 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-fluoro-4-chlorophenoxy)azetidine | 1.14 mmol, 0.230 g | FC1=C(OC2CNC2)C=CC(=C1)Cl | C9H9ClFNO
solvent | Isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 3-((4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)pyridin-2-yl)amino)-N-methylbenzamide | 0.10 g, 3% | ClC1=CC(=C(OC2CN(C2)C2=CC(=NC=C2)NC=2C=C(C(=O)NC)C=CC2)C=C1)F | C22H20ClFN4O2
